US03950522
A solution of 9.3 g. (0.1 mole) of 2-picoline in 50 ml. of anhydrous ether is added dropwise at 15°C. to 50 ml. of a 2.1M solution of phenyl lithium in benzene/ether under nitrogen. The resulting mixture is stirred for 1 hour, then added dropwise to a stirred solution of 9.9 g. (0.1 mole) of allyl isothiocyanate in 200 ml. of anhydrous ether at -50°C. under nitrogen. The mixture is stirred for 15 minutes after the addition is complete and then poured into 150 ml. of dilute hydrochloric acid/ice and stirred. The layers are separated and the aqueous phase is basified with 5% aqueous sodium carbonate solution and then extracted with ethyl acetate. The extracts are dried and concentrated and the residue is recrystallized from benzene/petroleum ether to give N-allyl-2-(2-pyridyl)thioacetamide, m.p. 67°-68°C.

reactant | 2-picoline | 0.1 mole | N1=C(C=CC=C1)C | C6H7N
reactant | ether | CCOCC | C4H10O
reactant | phenyl lithium | C1(=CC=CC=C1)[Li]
reactant | allyl isothiocyanate | 0.1 mole | C(C=C)N=C=S | C4H5NS
solvent | benzene ether | C1=CC=CC=C1.CCOCC
product | N-allyl-2-(2-pyridyl)thioacetamide | C(C=C)NC(CC1=NC=CC=C1)=S | C10H12N2S
